data/oMe_Silver.jsonl
{"reaction_id": "NR-311_1-c1ccc(OC)cc1_2-CC_3-c1ccccc1_4-C_5-c1ccccc1CC","level": "hard","name": "Ugi Reaction","reactants_smiles": ["NCC","c1ccccc1C(C)=O","c1ccc(OC)cc1C(=O)O","[C-]#[N+]c1ccccc1CC"],"products_smiles": ["c1ccc(OC)cc1C(=O)N(CC)C(c1ccccc1)(C)C(=O)N"],"conditions": "","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1C(C)(O)[NH2+]CC","step_weight": 0,"rationale": "The amine attacks the electrophilic carbonyl carbon due to its partial positive charge, facilitated by the polar environment, forming a tetrahedral intermediate stabilized by protonation."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccccc1C(C)=[NH+]CC","step_weight": 0,"rationale": "Loss of water occurs because the hydroxyl group is protonated, making it a good leaving group, and imine formation is favored by conjugation between C=N and adjacent substituents."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCNC(c1ccccc1)(C)C#[N+]c1ccccc1CC","step_weight": 0,"rationale": "The isocyanide carbon, being nucleophilic due to adjacent positive nitrogen, attacks the electrophilic iminium carbon, forming a new C–C bond."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCNC(c1ccccc1)(C)C(OC(=[OH+])c1ccc(OC)cc1)=Nc1ccccc1CC","step_weight": 0,"rationale": "The carboxylic acid carbonyl oxygen attacks the electron-deficient isocyanide-derived imidoyl carbon, driven by nucleophilicity of the deprotonated acid and electrophilicity of the imidoyl carbon."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC[NH+]1C(c1ccccc1)(C)C(=Nc1ccccc1CC)OC1(O)c1ccc(OC)cc1","step_weight": 0,"rationale": "Intramolecular cyclization occurs as the oxygen attacks the imidoyl carbon, favored by proximity and relief of strain, forming a five-membered oxazoline-like intermediate."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCN1C(c1ccccc1)(C)C(=[NH+]c1ccccc1CC)OC1(O)c1ccc(OC)cc1","step_weight": 0,"rationale": "Proton transfer stabilizes the intermediate by neutralizing charges, facilitated by the acidic and basic sites within the molecule and solvent-mediated proton shuttling."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccccc1CCNC(=O)C(c1ccccc1)(C)N(CC)C(=[OH+])c1ccc(OC)cc1","step_weight": 0,"rationale": "Ring opening with elimination of the leaving group occurs because the protonated oxygen enhances leaving group ability, driving rearrangement to the amide."},{"step": 8,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1CCNC(=O)C(c1ccccc1)(C)N(CC)C(=O)c1ccc(OC)cc1","step_weight": 0,"rationale": "Final proton transfer restores neutrality, yielding the stable amide product favored by resonance stabilization of the C=O and N lone pair."}],"description": "The Ugi reaction proceeds via sequential nucleophilic additions and eliminations involving an amine, carbonyl compound, carboxylic acid, and isocyanide. Imine formation and isocyanide attack are followed by cyclization and rearrangement, driven by electronic stabilization and favorable leaving group departure under mild conditions, yielding the peptidomimetic product."}
